US07585880B2
3-[4-({3-[[(4-phenyl-1,3-thiazol-2-yl)methyl](propyl)amino]benzyl}oxy)phenyl]propanoic acid
To a mixture of methyl 3-[4-({3-[[(4-phenyl-1,3-thiazol-2-yl)methyl](propyl)amino]benzyl}oxy)phenyl]propanoate (360 mg, 0.72 mmol), ethanol (5 mL) and tetrahydrofuran (5 mL) was added 2N aqueous sodium hydroxide solution (2 mL) and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with water, neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was concentrated and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4-4:1 in volume ratio) to give the title compound (262 mg, yield 75%) as colorless prism crystals (recrystallized from acetone-heptane).

reactant | methyl 3-[4-({3-[[(4-phenyl-1,3-thiazol-2-yl)methyl](propyl)amino]benzyl}oxy)phenyl]propanoate | 0.72 mmol, 360 mg | C1(=CC=CC=C1)C=1N=C(SC1)CN(C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1)CCC | C30H32N2O3S
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[4-({3-[[(4-phenyl-1,3-thiazol-2-yl)methyl](propyl)amino]benzyl}oxy)phenyl]propanoic acid | 262 mg, yield 75% | C1(=CC=CC=C1)C=1N=C(SC1)CN(C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1)CCC | C29H30N2O3S
